US06617327B2
2-{[(4-(1H-Indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoxaline
To a solution of (2R)-2,3-dihydro[1,4]dioxino[2,3-f]quinoxalin-2-ylmethyl 4-methylbenzenesulfonate (0.300 g, 0.856 mmole) in methyl sulfoxide (20 mL) was added 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.639 g, 3.222 mmole) and the reaction mixture was heated to 80° C. for 12 hours. The reaction mixture was allowed to cool to room temperature and was diluted with ethyl acetate (200 mL), washed with water (2×100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, methanol:ethyl acetate 1:9) followed by recrystallization from ethanol provided 0.248 g (77%) of the (S)-enantiomer of the title compound as a pale yellow solid. Rf=0.36 (silica, methanol:ethyl acetate 1:9); mp >220° C. dec.

reactant | (2R)-2,3-dihydro[1,4]dioxino[2,3-f]quinoxalin-2-ylmethyl 4-methylbenzenesulfonate | 0.856 mmole, 0.300 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3N=CC=NC3=CC2)O1 | C18H16N2O5S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 3.222 mmole, 0.639 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | methyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | [(4-(1H-Indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoxaline | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC=2C(=C3N=CC=NC3=CC2)O1 | C24H22N4O2
